US04921962
Di-[1-(alpha-methylbenzyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] Phthalate
The compound is prepared from 40.0 g of di-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate, 200 ml of ethylbenzene, and 2.0 g of molybdenum trioxide which are heated to 110° C. (nitrogen atmosphere). Thereafter, 65 g of 70% t-butyl hydroxperoxide in water is added dropwise over one hour. The reaction mixture is refluxed for 3 hours after the hydroperoxide addition is complete. The crude product is chromatographed on silica gel (9:1 hexane:ethyl acetate) to give 51.0 g (88% yield) of a soft glassy product.

reactant | di-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate | 40.0 g | C(C=1C(C(=O)OC2CC(N(C(C2)(C)C)O)(C)C)=CC=CC1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C26H40N2O6
reactant | ethylbenzene | 200 ml | C(C)C1=CC=CC=C1 | C8H10
reactant | hydroperoxide | [O-]O
solvent | water | O | H2O
catalyst | molybdenum trioxide | 2.0 g | [Mo](=O)(=O)=O
product | Di-[1-(alpha-methylbenzyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] Phthalate | 51.0 g, 88% yield | C(C=1C(C(=O)OC2CC(N(C(C2)(C)C)OC(C2=CC=CC=C2)C)(C)C)=CC=CC1)(=O)OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C42H56N2O6
